US06353010B1
7-Methoxy-3-propyl-2-trifluoromethylbenzimidazole
Prepared from 4-methoxy-2-trifluoromethylbenzimidazole (2.4 g) and propyl bromide (3.02 ml). Purification by flash chromatography on silica eluting with 15% ethyl acetate in hexane gave the title compound as a white solid (2.03 g).

reactant | 4-methoxy-2-trifluoromethylbenzimidazole | 2.4 g | COC1=CC=CC=2N=C(NC21)C(F)(F)F | C9H7F3N2O
reactant | propyl bromide | 3.02 ml | C(CC)Br | C3H7Br
product | 7-Methoxy-3-propyl-2-trifluoromethylbenzimidazole | 2.03 g | COC1=CC=CC2=C1N=C(N2CCC)C(F)(F)F | C12H13F3N2O
